US07858796B2
(278) 3-{1-[(2,4-dimethyl-1,3-thiazol-5-yl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
Following the general procedure in example 267, 5-phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide (32 mg, 0.1 mmol), 2,4-dimethyl-1,3-thiazole-5-sulfonyl chloride (24.8 mg, 0.15 mmol) and triethylamine (0.06 mL, 0.3 mmol) were reacted to form the desired product which was purified by Gilson HPLC (CH3CN/Water, 0.1% TFA) (12.7 mg, 26%).

reactant | 5-phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.1 mmol, 32 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
reactant | 2,4-dimethyl-1,3-thiazole-5-sulfonyl chloride | 0.15 mmol, 24.8 mg | CC=1SC(=C(N1)C)S(=O)(=O)Cl | C5H6ClNO2S2
reactant | TEA | 0.3 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
product | 3-{1-[(2,4-dimethyl-1,3-thiazol-5-yl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | CC=1SC(=C(N1)C)S(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C25H26N4O3S2
